US07112593B2
2-Ethynylbicyclo[2.2.1]heptan-2-ol
500 mg of norcamphor was dissolved in 6 ml of tetrahydrofuran and the solution was added dropwise in a suspension of 543 mg of lithium acetylide-ethylenediamine complex in tetrahydrofuran at room temperature, and the resulting reaction mixture was stirred for 18 hours. After water was added to the resulting reaction mixture, it was evaporated while maintaining the temperature of the water bath at 25° C. The residue was extracted with ethyl acetate twice. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give 523 mg of the title compound.

reactant | norcamphor | 500 mg | C1CC2CC1CC2=O | C7H10O
reactant | water | O | H2O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2-Ethynylbicyclo[2.2.1]heptan-2-ol | 523 mg | C(#C)C1(C2CCC(C1)C2)O | C9H12O
